US04086219
(e) Nα -Benzyloxycarbonyl-L-isoleucyl-L-tryptophan methyl ester
Nα -Benzyloxycarbonyl-L-isoleucine, 2.65 g., and 2.54 g. of L-tryptophan methyl ester hydrochloride are dissolved in 30 ml. of dimethylformamide and cooled in an ice bath. Triethylamine, 1.4 ml., is added and then 1.5 g. of 1-hydroxy-benzotriazole. Lastly 2.3 g. of dicyclohexylcarbodiimide is added and the reaction let warm to room temperature with stirring continued for 40 hours. The mixture is filtered and the solvent evaporated. The residue is dissolved in 150 ml. of ethyl acetate and washed with 0.5 N hydrochloric acid, saturated sodium chloride solution, 5% sodium bicarbonate solution and finally with saturated sodium chloride solution. The ethyl acetate solution is dried over magnesium sulfate, filtered and the solution evaporated. The product is crystallized from methanol-ether-hexane to give 2.58 g. of the above named product, mp. 152°-155° C; [α]D23 -16.6° (c 1.95, methanol).

reactant | Nα -Benzyloxycarbonyl-L-isoleucine | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C14H19NO4
reactant | L-tryptophan methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | 1-hydroxy-benzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methanol | CO | CH4O
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -Benzyloxycarbonyl-L-isoleucyl-L-tryptophan methyl ester | COC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)[C@@H](C)CC)=O)CC1=CNC2=CC=CC=C12)=O | C26H31N3O5
